US06177440B1
40% Methanolic Triton B (0.054 mL, 0.12 mM) was added to a solution of the 9-[(3-phenoxyphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole (39.5 mg, 0.10 mM) in 3 mL DMF at room temperature. After 3 minutes, t-butyl bromoacetate (54.8 mg, 0.27 mM) was added and the resultant mixture stirred at room temperature for 5 hours. The mixture was diluted with ethyl acetate, washed four times with H2O, once with saturated brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (elution with gradient methylene chloride/ethyl acetate) to afford 33.0 mg (65%) of the {9-[(3-phenoxyphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester as a white solid. 1H NMR (DMSO-d6) δ 7.6 (d, 1H, J=8 Hz), 7.5-6.8 (m, 15H), 6.55 (d, 1H, J=8 Hz), 5.7 (s, 2H), 4.8 (s, 2H), and 1.45 (s, 9H). IR (KBr, cm−1) 3450, 1748, 1670, 1582, 1486, 1246, 1225, and 1151. MS (ES) m/e 523.

reactant | 9-[(3-phenoxyphenyl)methyl]-4-hydroxy-5-carbamoyl carbazole | 0.10 mM, 39.5 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(N)=O | C26H20N2O3
reactant | t-butyl bromoacetate | 0.27 mM, 54.8 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {9-[(3-phenoxyphenyl)methyl]-5-carbamoylcarbazol-4-yl}oxyacetic acid, tert-butyl ester | 33.0 mg, 65% | O(C1=CC=CC=C1)C=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)OCC(=O)OC(C)(C)C)C(N)=O | C32H30N2O5
